.suckt  symmetrical_op_amp_4273 ibias in1 in2 out source_nmos source_pmos
M1 out2fs in1 net_0 net_0 nmos W=4e-6 L=1e-6
M2 inoutputtc in2 net_0 net_0 nmos W=4e-6 L=1e-6
M3 out1fs out1fs source_pmos source_pmos pmos W=1e-6 L=1e-6
M4 out2fs out2fs out1fs out1fs pmos W=1e-6 L=1e-6
M5 insourcetc insourcetc source_pmos source_pmos pmos W=1e-6 L=1e-6
M6 inoutputtc inoutputtc insourcetc insourcetc pmos W=1e-6 L=1e-6
M7 net_1 net_1 source_nmos source_nmos nmos W=1e-6 L=1e-6
M8 net_0 ibias net_1 net_1 nmos W=1e-6 L=1e-6
M9 net_3 out1fs source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 out out2fs net_3 net_3 pmos W=1e-6 L=1e-6
M11 instagebias instagebias source_nmos source_nmos nmos W=2e-6 L=1e-6
M12 out innercomp instagebias instagebias nmos W=2e-6 L=1e-6
M13 net_4 insourcetc source_pmos source_pmos pmos W=1e-6 L=1e-6
M14 innercomp inoutputtc net_4 net_4 pmos W=1e-6 L=1e-6
M15 innercomp instagebias source_nmos source_nmos nmos W=2e-6 L=1e-6
M16 ibias ibias bias_n_1m bias_n_1m nmos W=1e-6 L=1e-6
M17 bias_n_1m net_1 source_nmos source_nmos nmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
.end symmetrical_op_amp_4273
