.suckt  symmetrical_op_amp_4263 ibias in1 in2 out source_nmos source_pmos
M1 out2fs in1 net_0 net_0 nmos W=4e-6 L=1e-6
M2 inoutputtc in2 net_0 net_0 nmos W=4e-6 L=1e-6
M3 out1fs out1fs source_pmos source_pmos pmos W=1e-6 L=1e-6
M4 out2fs out2fs out1fs out1fs pmos W=1e-6 L=1e-6
M5 insourcetc insourcetc source_pmos source_pmos pmos W=1e-6 L=1e-6
M6 inoutputtc inoutputtc insourcetc insourcetc pmos W=1e-6 L=1e-6
M7 net_1 bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
M8 net_0 ibias net_1 net_1 nmos W=1e-6 L=1e-6
M9 net_4 out1fs source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 out out2fs net_4 net_4 pmos W=1e-6 L=1e-6
M11 net_5 insourcestagebias source_nmos source_nmos nmos W=2e-6 L=1e-6
M12 out inoutputstagebias net_5 net_5 nmos W=2e-6 L=1e-6
M13 net_6 insourcetc source_pmos source_pmos pmos W=1e-6 L=1e-6
M14 inoutputstagebias inoutputtc net_6 net_6 pmos W=1e-6 L=1e-6
M15 insourcestagebias insourcestagebias source_nmos source_nmos nmos W=2e-6 L=1e-6
M16 inoutputstagebias inoutputstagebias insourcestagebias insourcestagebias nmos W=2e-6 L=1e-6
M17 bias_n_1b bias_n_1b source_nmos source_nmos nmos W=1e-6 L=1e-6
M18 ibias ibias bias_n_1b bias_n_1b nmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
.end symmetrical_op_amp_4263
